US08497281B2
cis-4-(1H-Benzoimidazole-5-carbonyl)-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline-8-carboxylic acid amide
The title compound is prepared from cis-4-(1H-benzoimidazole-5-carbonyl)-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline-8-carboxylic acid and ammonia (28% in water) following a procedure analogous to that described in Example 1. Yield: 58% of theory; LC (method 1): tR=1.78 min; Mass spectrum (ESI+): m/z=375 [M+H]+.

reactant | cis-4-(1H-benzoimidazole-5-carbonyl)-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline-8-carboxylic acid | N1C=NC2=C1C=CC(=C2)C(=O)N2CCC[C@@H]1C3=C(CC[C@H]21)C=C(C=C3)C(=O)O | C22H21N3O3
reactant | ammonia | N | H3N
product | cis-4-(1H-Benzoimidazole-5-carbonyl)-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline-8-carboxylic acid amide | Yield: 58% | N1C=NC2=C1C=CC(=C2)C(=O)N2CCC[C@@H]1C3=C(CC[C@H]21)C=C(C=C3)C(=O)N | C22H22N4O2
